### PR TITLE
feat(MultiTapeTM): add sequential composition and tape extension

### PR DESCRIPTION
**Pull request by SamuelSchlesinger**
Add sequential execution for machines with the same work-tape count and tape extension along an injection. Prove their `runFrom` behavior, including preservation of unused tapes and the exact space cost of extension.

Part 2/6 of the TM composition stack. Depends on #870. Next: #872.

Validation: strict build, import checks, full tests, and linters.

This PR was composed with Astra via Codex.

### CODE REVIEW

File: Cslib/Computability/Machines/Turing/MultiTape/Deterministic.lean [hunk 1]
```diff
@@ -462,6 +504,16 @@ def haltsAtStep (tm : MultiTapeTM k Symbol State) (input : List Symbol) (t : ℕ
   (tm.runFrom (tm.initCfg input) t).state.isNone &&
   !(tm.runFrom (tm.initCfg input) (t - 1)).state.isNone
 
+/-- Every padded halting run has a least halting time. -/
+lemma exists_minimal_halting_time (tm : MultiTapeTM k Symbol State)
+    (cfg : Cfg k Symbol State input) (t : ℕ)
+    (hhalt : (tm.runFrom cfg t).state = none) :
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Deterministic.lean:526]: Not really related to this PR but should we change `haltsAtStep` to use `= none` as well? Is `haltsAtStep` useful at all?

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+
+variable {k : ℕ} {State Symbol : Type*} {input : List Symbol}
+
+/-- The configuration `cfg` with its state replaced by `q`, possibly over a different state
+type. -/
+def Cfg.withState (cfg : Cfg k Symbol State input) {State' : Type*}
+    (q : Option State') : Cfg k Symbol State' input :=
+  ⟨q, cfg.inputPos, cfg.workTapes, cfg.workTapePos, cfg.output⟩
+
+@[simp]
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Basic.lean]: I think we should be able to obtain most of these by adding `@[simps]` to `Cfg.withState`.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,76 @@
...
+    {q : Option State'} {q' : Option State''} :
+    (cfg.withState q).withState q' = cfg.withState q' := rfl
+
+@[simp]
+lemma Cfg.withState_self {cfg : Cfg k Symbol State input} :
+    cfg.withState cfg.state = cfg := rfl
+
+/-- A family of configurations with the prescribed steps agrees with `runFrom`. -/
+lemma runFrom_eq_of_step (tm : MultiTapeTM k Symbol State)
+    (path : ℕ → Cfg k Symbol State input) (n : ℕ)
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Basic.lean]: Would it be easier to use `List (Cfg k Symbol State input)` here instead of `path` and `n`?

Comment (crei) [reply Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Basic.lean]: also `hstep` should be `List.IsChain` for the transition relation.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/ExtendTapes.lean [hunk 4]
```diff
@@ -0,0 +1,137 @@
...
+  cases hs : cfg.state with
+  | none => simp [step, embed, hs]
+  | some q =>
+    simp only [step, embed, hs, extendTapes, Cfg.inputSymbol] at hwork ⊢
+    rw [hwork]
+    apply Cfg.ext <;> try rfl
+    · funext j p
+      by_cases hj : j ∈ Set.range e
+      · obtain ⟨i, rfl⟩ := hj
+        simp only [extend_apply]
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/ExtendTapes.lean]: Terminal `simp only`?

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/ExtendTapes.lean [hunk 5]
```diff
@@ -0,0 +1,137 @@
...
+      · simp [extend, hj]
+    · funext j
+      by_cases hj : j ∈ Set.range e
+      · obtain ⟨i, rfl⟩ := hj
+        simp only [extend_apply]
+      · simp [extend, hj]
+
+/-- Extending the tape count does not change the execution time. -/
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/ExtendTapes.lean]: This proves much  more: It shows how to map every element of an execution path.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Sequential.lean [hunk 6]
```diff
@@ -0,0 +1,100 @@
...
+
+public import Cslib.Computability.Machines.Turing.MultiTape.Plumbing.Basic
+
+/-!
+# Sequential execution on shared tapes
+
+`seq` runs two machines with the same work-tape count. The transition that would halt the first
+machine instead enters the second machine's initial state. Tape contents, head positions, and
+accumulated output are carried across, with no extra transition for the handoff.
+-/
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Sequential.lean:18]: We could also add: No information is passed via the finite state.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Sequential.lean [hunk 7]
```diff
@@ -0,0 +1,100 @@
...
+
+@[expose] public section
+
+namespace Turing.MultiTapeTM
+
+variable {k : ℕ} {Symbol State State₀ State₁ : Type*} {input : List Symbol}
+
+/-- Run two machines on the same tapes, handing off on the first halting transition. -/
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Sequential.lean]:
```suggestion
/-- Run two machines sequentially on the same tapes, handing off on the first halting transition. -/
```

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Sequential.lean [hunk 8]
```diff
@@ -0,0 +1,100 @@
...
+def seq (tm₀ : MultiTapeTM k Symbol State₀) (tm₁ : MultiTapeTM k Symbol State₁) :
+    MultiTapeTM k Symbol (State₀ ⊕ State₁) where
+  q₀ := .inl tm₀.q₀
+  tr q input work := match q with
+    | .inl q =>
+      let out := tm₀.tr q input work
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Sequential.lean]: not sure if the rename was already merged but we call this "Action" now instead of 'TransitionOut' (it was a non-descriptive name and clashes with the "output symbol"), so maybe rename `out` -> `action`.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Sequential.lean [hunk 9]
```diff
@@ -0,0 +1,100 @@
...
+/-- Once in the second phase, runs are exactly the second machine's runs. -/
+lemma runFrom_right (cfg : Cfg k Symbol State₁ input) (n : ℕ) :
+    (seq tm₀ tm₁).runFrom (right cfg) n = right (tm₁.runFrom cfg n) := by
+  induction n with
+  | zero => rfl
+  | succ n ih => rw [runFrom_succ_eq_step', ih, step_right, runFrom_succ_eq_step']
+
+end Sequential
+
+/-- Sequential execution splits at the first machine's earliest halt. The second machine receives
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Sequential.lean:85]: Oh wow, this file is super short! Nice!
